US04481142
Preparation of 9-chloro-N-methyl-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-amine
A solution of 1 g(0.00279 mol) of 2,9-dichloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine in 4 ml of N,N-dimethylformamide was cooled in an ice bath and saturated with methylamine. After 64 hr at room temperature, 50 ml of ice water was added and the reaction was filtered. The precipitated was partitioned between 50 ml ofdichloromethane and 50 ml of water, and the organic layer was washed with 25 ml of brine solution, dried and evaporated to dryness. The oil was crystallized from ether and then recrystallized from dichloromethane/ether and then from methanol to give the end product as white prisms, mp 172°-179°.

reactant | 2,9-dichloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine | 0.00279 mol, 1 g | ClC=1N=CC=2CN=C(C3=C(C2N1)C=CC(=C3)Cl)C3=C(C=CC=C3)F | C18H10Cl2FN3
reactant | methylamine | CN | CH5N
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 9-chloro-N-methyl-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-amine | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)F)C=NC(=N3)NC)C=C1 | C19H14ClFN4
